US06008362
2-[1-(4-hydroxy-phenyl)-4-chloro-butylidene]-hydrazinecarbothioamide
Thiosemicarbazide (6.84 g, 75 mmol) was added under nitrogen to a solution of 4-chloro-4'-hydroxybutyrophenone (10.0 g, 50 mmol) in 175 mL of methanol plus 13.5 mL of 1 N HCl plus 12.5 mL of water and the reaction stirred room temperature for forty hours. The reaction was concentrated under reduced pressure to remove most of the methanol. The residue was partitioned between methylene chloride and water. The organic layer was separated, dried (MgSO4) and the solvent removed under reduced pressure to give 8.33 g of a white solid. Recrystallization of the solid from isopropyl alcohol gave 3.19 g (21%) of the title compound as a light yellow solid, mp 126-129° C.

reactant | Thiosemicarbazide | 75 mmol, 6.84 g | NNC(=S)N | CH5N3S
reactant | 4-chloro-4'-hydroxybutyrophenone | 50 mmol, 10.0 g | ClCCCC(=O)C1=CC=C(C=C1)O | C10H11ClO2
solvent | methanol | 175 mL | CO | CH4O
solvent | HCl | 1 N, 13.5 mL | Cl | ClH
solvent | water | 12.5 mL | O | H2O
product | 2-[1-(4-hydroxy-phenyl)-4-chloro-butylidene]-hydrazinecarbothioamide | 8.33 g | OC1=CC=C(C=C1)C(CCCCl)=NNC(N)=S | C11H14ClN3OS
